US07435744B2
2-[4-(4-Fluoro-benzyl)-piperidin-1-yl]-N-(1H-benzimidazol-5-yl)-acetamide (45 70002140)
The title compound is prepared from 2-chloro-N-(1H-benzimidazol-5-yl)-acetamide (Example 151 a) and 4-(4-fluoro-benzyl)-piperidine according to the method described in Example 142b. Melting Point: 203.5-204.5° C. (diethylether)

reactant | 2-chloro-N-(1H-benzimidazol-5-yl)-acetamide | ClCC(=O)NC1=CC2=C(NC=N2)C=C1 | C9H8ClN3O
reactant | 4-(4-fluoro-benzyl)-piperidine | FC1=CC=C(CC2CCNCC2)C=C1 | C12H16FN
solvent | diethylether | C(C)OCC | C4H10O
product | 2-[4-(4-Fluoro-benzyl)-piperidin-1-yl]-N-(1H-benzimidazol-5-yl)-acetamide | FC1=CC=C(CC2CCN(CC2)CC(=O)NC2=CC3=C(NC=N3)C=C2)C=C1 | C21H23FN4O
